US06337344B1
[4-({[1-(3-Amidino-benzyl)-5-bromo-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium acetate acetic acid salt
This compound was prepared from 5-bromo-1-(3-cyano-benzyl)-1H-indole-2-carboxylic acid (1 g, 2.8 mmol), diphenylphosphoryl azide (790 μl, 3.66 mmol), N,N-diisopropylethylamine (960 μl, 5.6 mmol), and 4-(dimethylamino)-benzylamine dihydrochloride (703 mg, 3.1 mmol) in N,N-dimethylformamide (40 ml) as described in example 3/1. The purification by flash chromatography on silica gel was done with dichloromethane/methanol 20:0.05 to give 949 mg (69 %) of the desired product. M.p. 145-146° C.

reactant | 5-bromo-1-(3-cyano-benzyl)-1H-indole-2-carboxylic acid | 2.8 mmol, 1 g | BrC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)C#N)C(=O)O | C17H11BrN2O2
reactant | diphenylphosphoryl azide | 3.66 mmol, 790 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | N,N-diisopropylethylamine | 5.6 mmol, 960 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(dimethylamino)-benzylamine dihydrochloride | 3.1 mmol, 703 mg | Cl.Cl.CN(C1=CC=C(CN)C=C1)C
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | [4-({[1-(3-Amidino-benzyl)-5-bromo-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium acetate acetic acid salt | 949 mg, 69 % | C(C)(=O)O.C(C)(=O)[O-].C(N)(=N)C=1C=C(CN2C(=CC3=CC(=CC=C23)Br)C(=O)NCC2=CC=C(C=C2)[N+](C)(C)C)C=CC1 | InChI=1S/C27H28BrN5O.2C2H4O2/c1-33(2,3)23-10-7-18(8-11-23)16-31-27(34)25-15-21-14-22(28)9-12-24(21)32(25)17-19-5-4-6-20(13-19)26(29)30;2*1-2(3)4/h4-15H,16-17H2,1-3H3,(H3-,29,30,31,34);2*1H3,(H,3,4)
